US08314087B2
5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one.
In a 2-L RBF, a mixture of 5-bromopyridin-2(1H)-one (30 g, 172 mmol) in DME (250 mL) and DMF (70 mL) was purged with nitrogen and cooled in an ice bath. NaH (60% dispersion, 8.0 g, 200 mmol) was added in small portions to the mixture (over 2 h), resulting in a yellow suspension. LiBr (35 g, 403 mmol) was added and the mixture was stirred at room temperature for 15 min before 4-(2-bromoethoxy)-7-methoxyquinoline (40.0 g, 142 mmol) was added. The mixture was then heated to 60° C. in an oil bath for 5 days. The mixture was cooled to room temperature. CH2Cl2 (300 mL) was added and the slurry was filtered through a pad of Celite. The filtrate was washed with NaOH (0.5 N, 3×150 mL), H2O (100 mL), and dried over Na2SO4. The solution was concentrated to give a soft sludge which was stirred with a mixture of hexane (150 mL)-THF (150 mL) at reflux. The mixture was let cooled to room temperature overnight. The soft cake was filtered and washed with 1:1 hexane-THF (100 mL) to afford the product as a white solid (35.5 g, 67%).

reactant | 5-bromopyridin-2(1H)-one | 172 mmol, 30 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | NaH | 200 mmol, 8.0 g | [H-].[Na+]
reactant | LiBr | 403 mmol, 35 g | [Li+].[Br-]
reactant | 4-(2-bromoethoxy)-7-methoxyquinoline | 142 mmol, 40.0 g | BrCCOC1=CC=NC2=CC(=CC=C12)OC | C12H12BrNO2
solvent | DME | 250 mL | COCCOC | C4H10O2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | 150 mL | CCCCCC | C6H14
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 35.5 g, 67% | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
